US06888032B2
1-Benzyl-4-bromo-1H-pyrazole
A 100 mL round bottom flask was charged with 4-bromopyrazole (4.41 g, 30 mmol), tetrabutylammonium bromide (484 mg, 1.5 mmol) and potassium hydroxide pellets (3.37 g, 60 mmol). After the mixture was sonicated for 15 min, benzyl chloride (5.2 mL, 45 mmol) was added dropwise and the resulting mixture was stirred overnight. Ethyl ether (20 mL), water (20 mL), and diluted hydrochloric acid (1 mL, 10%) were added under stirring. The organic layer was washed with water (2×20 mL) and dried over MgSO4. The solvent was removed under reduced pressure and the product was purified by flash chromatography on silica gel (hexane/ethyl acetate 10:1) to provide the desired product as a white solid (6.74 g, 95% yield). Mp 51-52° C. (lit. 44-45° C., See Jones, R. G. J. Am. Chem. Soc. 1949, 71, 3994). 1H NMR (400 MHz, CDCl3): δ 7.53 (s, 1H), 7.42-7.33 (m, 4H), 7.28-7.22 (m, 2H), 5.29 (s, 2H); 13C NMR (100 MHz, CDCl3): δ 140.4, 136.2, 129.8, 129.4, 128.8, 128.3, 93.9, 57.1.

reactant | 4-bromopyrazole | 30 mmol, 4.41 g | BrC=1C=NNC1 | C3H3BrN2
reactant | potassium hydroxide | [OH-].[K+]
reactant | benzyl chloride | 45 mmol, 5.2 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | 1 mL | Cl | ClH
catalyst | tetrabutylammonium bromide | 1.5 mmol, 484 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 20 mL | O | H2O
solvent | Ethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-Benzyl-4-bromo-1H-pyrazole | 6.74 g, 95% yield | C(C1=CC=CC=C1)N1N=CC(=C1)Br | C10H9BrN2
